US06362177B1
A solution of 3-amino-1-(4-chlorobenzyl)homopiperidine (24 mg, 0.10 mmol) and 4-benzoylbutyric acid (1.2 equiv.) in CHCl3 (1 mL) was treated with EDCI (23 mg), HOBt (16.2 mg) and Et3N (15.2 μL), and stirred at 25° C. for 16 h. The reaction mixture was diluted with CH2Cl2 (0.5 mL), washed with 2 N aqueous NaOH solution (2×0.75 mL), dried by filtration through a PTFE membrane and concentrated to afford 1-(4-chlorobenzyl)-3-[(4-benzoylbutyryl)amino}homopiperidine (compound No. 994) (43 mg, 99%): The purity was determined by RPLC/MS (98%); ESI/MS m/e 413 (M++H, C24H29ClN2O2).

reactant | 3-amino-1-(4-chlorobenzyl)homopiperidine | 0.10 mmol, 24 mg | NC1CN(CCCC1)CC1=CC=C(C=C1)Cl | C13H19ClN2
reactant | 4-benzoylbutyric acid | 1.2 equiv. | C(C1=CC=CC=C1)(=O)CCCC(=O)O | C11H12O3
reactant | EDCI | 23 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 16.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 15.2 μL | CCN(CC)CC | C6H15N
product | 1-(4-chlorobenzyl)-3-[(4-benzoylbutyryl)amino}homopiperidine | ClC1=CC=C(CN2CC(CCCC2)NC(CCCC(C2=CC=CC=C2)=O)=O)C=C1 | C24H29ClN2O2
